US06555556B1
(b) N-[4-(1-Acetimidoylpiperidin-4-yloxy)phenyl]-N-[3-(3-amidinophenyl)-2-methyl-2-(E)-propenyl]ethanesulfonamide Dihydrochloride
To a solution of N-[3-(3-amidinophenyl)-2-methyl-2-(E)-propenyl]-N-[4-(piperidin-4-yloxy)phenyl]ethanesulfonamide dihydrochloride (303 mg) in ethanol (10 ml) were added ethyl acetimidate hydrochloride (246 mg) and triethylamine (0.460 ml). The resulting mixture was stirred at room temperature for 12 hours. After addition of a 4M solution of hydrogen chloride in dioxane (0.9 ml), the resulting mixture was concentrated in vacuo. The residue was purified by preparative HPLC (YMC-Pack ODS YMC) using 20% aqueous acetonitrile as an eluant to afford an amorphous solid. To a solution of the solid in methanol (10 ml) was added a 4M solution of hydrogen chloride in dioxane (0.4 ml) and the mixture was concentrated to dryness in vacuo. The resulting amorphous solid was dissolved in water (10 ml) and the solution was lyophilized to give the title compound (170 mg, yield 45%) as a colorless amorphous solid.

reactant | N-[3-(3-amidinophenyl)-2-methyl-2-(E)-propenyl]-N-[4-(piperidin-4-yloxy)phenyl]ethanesulfonamide dihydrochloride | 303 mg | Cl.Cl.C(N)(=N)C=1C=C(C=CC1)/C=C(/CN(S(=O)(=O)CC)C1=CC=C(C=C1)OC1CCNCC1)\C
reactant | ethyl acetimidate hydrochloride | 246 mg | Cl.C(C)(OCC)=N
reactant | triethylamine | 0.460 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | dioxane | 0.9 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
solvent | dioxane | 0.4 ml | O1CCOCC1 | C4H8O2
product | N-[4-(1-Acetimidoylpiperidin-4-yloxy)phenyl]-N-[3-(3-amidinophenyl)-2-methyl-2-(E)-propenyl]ethanesulfonamide Dihydrochloride | 170 mg, yield 45% | Cl.Cl.C(C)(=N)N1CCC(CC1)OC1=CC=C(C=C1)N(S(=O)(=O)CC)C\C(=C\C1=CC(=CC=C1)C(N)=N)\C | InChI=1S/C26H35N5O3S.2ClH/c1-4-35(32,33)31(18-19(2)16-21-6-5-7-22(17-21)26(28)29)23-8-10-24(11-9-23)34-25-12-14-30(15-13-25)20(3)27;;/h5-11,16-17,25,27H,4,12-15,18H2,1-3H3,(H3,28,29);2*1H/b19-16+,27-20?;;
